US07834051B2
4-[(2S,3R)-3-(tert-butyldimethylsilyloxy)-2-ethyl-5-oxopyrrolidin-1-yl]-2-methoxybenzonitrile
Using (4R,5S)-4-(tert-butyldimethylsilyloxy)-5-ethylpyrrolidin-2-one (1.00 g), 4-bromo-2-methoxybenzonitrile (1.00 g), cesium carbonate (2.08 g), tris(dibenzylideneacetone)dipalladium(0) (193 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (490 mg), and in the same manner as in Reference Example 3, the title compound was obtained as a colorless solid (yield: 1.04 g, 65%).

reactant | (4R,5S)-4-(tert-butyldimethylsilyloxy)-5-ethylpyrrolidin-2-one | 1.00 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC(N[C@H]1CC)=O | C12H25NO2Si
reactant | 4-bromo-2-methoxybenzonitrile | 1.00 g | BrC1=CC(=C(C#N)C=C1)OC | C8H6BrNO
reactant | cesium carbonate | 2.08 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 490 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 193 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[(2S,3R)-3-(tert-butyldimethylsilyloxy)-2-ethyl-5-oxopyrrolidin-1-yl]-2-methoxybenzonitrile | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](N(C(C1)=O)C1=CC(=C(C#N)C=C1)OC)CC | C20H30N2O3Si
